* gnetlist -g spice-noqsi -o divide_by_two.net divide_by_two.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.INCLUDE ./simulation.cmd
D1 VCLK_1 d1_d d1_d_bar D2_D_bar D2_D Vdd GND   
D2 VCLK_2 D2_D D2_D_bar d1_d d1_d_bar Vdd GND   

X1 VCLK VCLK_1 INV1
X2 VCLK_1 VCLK_2 INV1
.GLOBAL Vdd Vss
V1 VCLK GND pulse 0 1.2 0 100p 100p 1.9n 4n
Vd Vdd GND 1.2V
Vs Vss GND 0V
